US04315858
Using the method for the preparation of the side chain acid in Example 3, 11.5 g (50 mmol) of 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid, 500 ml of dichloromethane, 21.0 ml (150 mmol) of triethylamine, 20 ml (158 mmol) of chlorotrimethylsilane, and 5.67 g (55 mmol) of cyanoacetyl chloride [Org. Syn. Col. Vol. V p. 171] gives 14.7 g of 6-[4-(cyanoacetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid; mp>280°.

reactant | 6-(4-aminophenyl)-1,2-dihydro-2-oxonicotinic acid | 50 mmol, 11.5 g | NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C12H10N2O3
reactant | triethylamine | 150 mmol, 21.0 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 158 mmol, 20 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | cyanoacetyl chloride | 55 mmol, 5.67 g | C(#N)CC(=O)Cl | C3H2ClNO
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 6-[4-(cyanoacetylamino)phenyl]-1,2-dihydro-2-oxonicotinic acid | 14.7 g | C(#N)CC(=O)NC1=CC=C(C=C1)C=1NC(C(C(=O)O)=CC1)=O | C15H11N3O4
